US06545009B1
In the same manner as in Example 28, ethyl 3-thiocarbamoylbenzoate was reacted with 3-bromoacetyl-2,5-dimethylfuran to obtain ethyl 3-[4-(2,5-dimethyl-3-furyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 16%, Pale yellow prisms. Melting point: 100 to 101° C.

reactant | ethyl 3-thiocarbamoylbenzoate | C(N)(=S)C=1C=C(C(=O)OCC)C=CC1 | C10H11NO2S
reactant | 3-bromoacetyl-2,5-dimethylfuran | BrCC(=O)C1=C(OC(=C1)C)C | C8H9BrO2
product | ethyl 3-[4-(2,5-dimethyl-3-furyl)-2-thiazolyl]benzoate | Yield: 16% | CC=1OC(=CC1C=1N=C(SC1)C=1C=C(C(=O)OCC)C=CC1)C | C18H17NO3S
